US08067426B2
6-Amino-2-{[(1S)-1-methylbutyl]oxy}-9-[4-(1-piperidinyl)butyl]-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 19 from 2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-1H-purin-6-amine trifluoroacetate, 1-bromo-4-chlorobutane and piperidine.

reactant | 2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C[C@@H](CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
reactant | piperidine | N1CCCCC1 | C5H11N
product | 6-Amino-2-{[(1S)-1-methylbutyl]oxy}-9-[4-(1-piperidinyl)butyl]-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)O[C@H](CCC)C)CCCCN1CCCCC1)=O | C19H32N6O2
